US03968132
A. 3-Ethoxy-9α-fluoro-11β-hydroxy--3,5 -androstadiene-17-one
To 1 gm. of 9α-fluoro-11β-hydroxy-4-androstene-3,17 -dione in a solution of 1 ml. of triethylorthoformate in 7 ml. of dioxane add 0.6 ml. of 5% concentrated sulfuric acid in dioxane. Stir at room temperature for five minutes then add 1 ml. of pyridine and evaporate in vacuo to a residue. Add cold ethanol and filter off the resultant precipitate comprising 3-ethoxy-9α-fluoro-11β-hydroxy-3,5 -androstadiene- 3,17-dione (0.8 gm.).

reactant | 9α-fluoro-11β-hydroxy-4-androstene-3,17 -dione | F[C@@]12[C@]3(CCC(C=C3CC[C@H]1[C@@H]1CCC([C@@]1(C)C[C@@H]2O)=O)=O)C | C19H25FO3
reactant | triethylorthoformate | C(C)OC(OCC)OCC | C7H16O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-Ethoxy-9α-fluoro-11β-hydroxy--3,5 -androstadiene-17-one | C(C)OC1=CC2=CC[C@H]3[C@@H]4CCC([C@@]4(C)C[C@@H]([C@@]3([C@]2(CC1)C)F)O)=O | C21H29FO3
